US07923555B2
8-Chloro-3-cyclobutyl-imidazo[1,5-a]pyrazine
This compound was prepared using procedures analogous to that described for trans-methyl 4-(8-chloroimidazo[1,5-a]pyrazin-3-yl)cyclohexanecarboxylate and its precursor trans-methyl 4-({[(3-chloropyrazin-2-yl)methyl]amino}carbonyl)cyclohexanecarboxylate, using cyclobutanecarboxylic acid in place of 4<methoxycarbonyl)cyclohexanecarboxylic acid.

reactant | trans-methyl 4-(8-chloroimidazo[1,5-a]pyrazin-3-yl)cyclohexanecarboxylate | ClC=1C=2N(C=CN1)C(=NC2)[C@@H]2CC[C@H](CC2)C(=O)OC | C14H16ClN3O2
reactant | trans-methyl 4-({[(3-chloropyrazin-2-yl)methyl]amino}carbonyl)cyclohexanecarboxylate | ClC=1C(=NC=CN1)CNC(=O)[C@@H]1CC[C@H](CC1)C(=O)OC | C14H18ClN3O3
reactant | cyclobutanecarboxylic acid | C1(CCC1)C(=O)O | C5H8O2
reactant | cyclohexanecarboxylic acid | C1(CCCCC1)C(=O)O | C7H12O2
product | 8-Chloro-3-cyclobutyl-imidazo[1,5-a]pyrazine | ClC=1C=2N(C=CN1)C(=NC2)C2CCC2 | C10H10ClN3
